US05932765
a) 2-Chloro-4-[(2-methylbenzyl)carbonylamino]benzoic acid
19.56 g (116 mmol) of (2-methylphneyl)acetic acid chloride are added, over 1 hour, to a mixture of 20 g (116 mmol) of 4-amino-2-chlorobenzoic acid, 12.9 g (127 mmol) of triethylamine and 150 ml of DMF dried over a molecular sieve. After stirring for 16 h at room temperature, the DMF is removed by evaporation under vacuum. The residue is washed with water and with dichloromethane to give, after drying, 19 g of an off-white powder (Yield=53%).

reactant | 4-amino-2-chlorobenzoic acid | 116 mmol, 20 g | NC1=CC(=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | triethylamine | 127 mmol, 12.9 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-4-[(2-methylbenzyl)carbonylamino]benzoic acid | 19 g, Yield=53% | ClC1=C(C(=O)O)C=CC(=C1)NC(=O)CC1=C(C=CC=C1)C | C16H14ClNO3
